US06903120B2
3-(1-Propyl-piperidin-4-yl)-benzoic acid methyl ester
A mixture of trifluoro-methanesulfonic acid 3-(1-propyl-piperidin-4-yl)-phenyl ester (1.2 g), triethyl amine (0.9 g), MeOH (5.4 ml), Pd(OAc)2 (25 mg) and 1,3-bis(di-phenyl-phosphino)propane (45 mg) in 15 ml DMSO was stirred at room temperature for 15 min. A stream of CO (g) was passed through the solution for 4-5 min., and then the reaction vessel was placed under a sligthly positive pressure of CO (g). The temp was increased to 70° C. After 6 h the reaction was allowed to cool to r.t. Water was then added, and the aqueous solution was extracted with five portions of ethyl acetate and the combined organic phases were dried (MgSO4), and evaporated. The residue was chromathographed on a silica column using MeOH: CH2Cl2 (1:9 (v/v)) as eluent. The fractions containing pure titled compound were collected, and the solvent was removed in vacuum, affording 650 mg of the titled compound. (MS m/z (rel. intensity, 70 eV) 261 (M+, 5), 233 (16), 232 (bp), 161 (5), 70 (20)

reactant | trifluoro-methanesulfonic acid 3-(1-propyl-piperidin-4-yl)-phenyl ester | 1.2 g | C(CC)N1CCC(CC1)C=1C=C(C=CC1)OS(=O)(=O)C(F)(F)F | C15H20F3NO3S
reactant | triethyl amine | 0.9 g | C(C)N(CC)CC | C6H15N
reactant | MeOH | 5.4 ml | CO | CH4O
reactant | Water | O | H2O
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
catalyst | Pd(OAc)2 | 25 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | 1,3-bis(di-phenyl-phosphino)propane | 45 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
product | 3-(1-Propyl-piperidin-4-yl)-benzoic acid methyl ester | 650 mg | COC(C1=CC(=CC=C1)C1CCN(CC1)CCC)=O | C16H23NO2
